US08629166B2
a) 2-((1-(Cyclopropylmethyl)-1H-pyrazol-3-yl)methyl)isoindoline-1,3-dione
To a colorless solution of 2-(1H-pyrazol-3-ylmethyl)-1H-isoindole-1,3(2H)-dione (CAN 95533-75-8; 3.66 g, 16.1 mmol) in DMF (80 mL) at 0° C. was added in 4 portions sodium hydride (1.29 g, 32.2 mmol) within 15 min. After warming to room temperature the mixture was stirred for 30 min and cyclopropylmethyl bromide (21.7 g, 15.6 mL, 161 mmol) in DMF (20 mL) was added within 30 min. The mixture was stirred for 22 h at room temperature, poured into ethyl acetate (200 mL) and extracted with water (3×100 mL). Water phases were washed with ethyl acetate (200 mL), organic phases were combined, dried with MgSO4 and concentrated in vacuo. The crude material was purified by flash chromatography (silica gel, 80 g, 0% to 100% EtOAc in heptane) and finally by preparative HPLC to give 1.63 g (36%) of the title compound as a white solid; MS (ESI): 282.2 (M+H)+.

reactant | 2-(1H-pyrazol-3-ylmethyl)-1H-isoindole-1,3(2H)-dione | 16.1 mmol, 3.66 g | N1N=C(C=C1)CN1C(C2=CC=CC=C2C1=O)=O | C12H9N3O2
reactant | sodium hydride | 32.2 mmol, 1.29 g | [H-].[Na+]
reactant | cyclopropylmethyl bromide | 161 mmol, 15.6 mL, 21.7 g | C1(CC1)CBr | C4H7Br
reactant | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-((1-(Cyclopropylmethyl)-1H-pyrazol-3-yl)methyl)isoindoline-1,3-dione | 1.63 g, 36% | C1(CC1)CN1N=C(C=C1)CN1C(C2=CC=CC=C2C1=O)=O | C16H15N3O2
